US06770646B2
d) 2-(2-Cyclopropylacetyl)-4-methoxy-5-[(3-trifluoromethylphenyl)methyl]thiophene-3-carboxylic acid
2M butyl lithium in hexanes (1.75 ml) was added slowly to a solution of 4-methoxy-5-[(3-trifluoromethylphenyl)methyl]thiophene-3-carboxylic acid (500 mg) in tetrahydrofuran (30 ml) at −78° C. The resultant red solution was stirred for 20 minutes and then 2-cyclopropyl-N-methoxy-N-methylacetamide (229 mg) in tetrahydrofuran (3 ml) was added. The mixture was stirred for 20 minutes at −78° C. and was then allowed to warm to room temperature. After 5 hours water was added and the mixture was extracted with ethyl acetate. The organic phase was dried and concentrated. Purification of the residue by chromatography, eluting with 10:10:1 isohexane:ether:acetic acid, gave the sub-title compound (177 mg).

reactant | butyl lithium | 2M | C(CCC)[Li]
reactant | 4-methoxy-5-[(3-trifluoromethylphenyl)methyl]thiophene-3-carboxylic acid | 500 mg | COC=1C(=CSC1CC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H11F3O3S
reactant | 2-cyclopropyl-N-methoxy-N-methylacetamide | 229 mg | C1(CC1)CC(=O)N(C)OC | C7H13NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(2-Cyclopropylacetyl)-4-methoxy-5-[(3-trifluoromethylphenyl)methyl]thiophene-3-carboxylic acid | 177 mg | C1(CC1)CC(=O)C=1SC(=C(C1C(=O)O)OC)CC1=CC(=CC=C1)C(F)(F)F | C19H17F3O4S
